Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Compazine / Demerol / Valium / Percocet / Phenergan
 
Attending: ___
 
Chief Complaint:
Chest Pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Ms ___ is a ___ yo female with a hx of atypical CP, PE x 2, 
recurrent DVT (on chronic coumadin), and SVT s/p multiple 
ablation with most recent RA of AVNRT in ___.  She was admitted 
on ___ to ___ after she experienced the sudden onset 
of pleuritic CP with palpitations while driving, similar to her 
prior 'PE pain'.  She presented to the the ___, 
whereinitial ECG showed significant inferolateral ST 
depressions. ? resolution with nitroglycerin.  CP was relief 
following morphine and ASA. ECG returned to baseline. INR was 
subtherapeutic at 1.65, and given her known severe contrast 
allergy, it was decided to increase her warfarin dose to treat 
empirically for pulmonary embolus.  There was still question as 
to whether her sx were related to ACS vs PE. She received an 
echo today showed normal LV function with no clear regional wall 
motion abnormalities.  Pharmacologic MIBI study with Lexiscan 
produced severe chest pain and significant ST depressions, which 
were both relieved with Aminophylline, nitroglycerin, and a 5 mg 
of IV metoprolol. Her perfusion imaging was normal. However, in 
view of her substantial symptoms and EKG changes with 
pharmacologic stress, she is planned for transfer to ___ for 
cardiac catheterization, which is currently being arranged. 
Sometime overnight prior to transfer she had severalruns of NSVT 
that were reportedly asymptomatic. 
.
On transfer fromt he OSH she had ___ CP for which she received 
nitro, ASA and dilaudid with improvement to ___ CP.
.
She is currently experiencing ___ CP that is pleuritic in 
nature and occasionally associated with nausea. She denies 
diaphoresis, vommiting or GERD symptoms. She does have an 
allergy to CT contrast but not to cardiac catheterization dye. 
.
Regarding her historty of DVT/PE, her w/u for hypercoaguable 
state has been neg with the exception of her LA which was 
positive on coumadin.  Her ___ PE occurred as a complication of 
her ablation in ___.
.
Regarding her hx of atypical CP, She also has a history of 
atypical chest discomfort with multiple hospital visits (q ___ 
wks).  SHe is s/p cardiac catheterization x3, most recently at 
___ in ___, which showed no significant coronary disease. There 
has been concern expressed in the past of Munchausen's syndrome. 

.
Regarding her hx of SVT, she has been refractory to 
antiarrhythmics including flecainide (dizziness), amiodarone and 
propafenone, and she is currently maintained on metoprolol.  She 
has had numerous ablations and EP studies at ___ 
___, and most recently at ___

 
Past Medical History:
1. CARDIAC RISK FACTORS: No Diabetes, Dyslipidemia, or 
Hypertension  
2. CARDIAC HISTORY:  
-CABG:  none
-PERCUTANEOUS CORONARY INTERVENTIONS:  none, most recent cath 
clean in ___
-PACING/ICD: none 
SVT
HYPOTHYROIDISM
THROMBOPHLEBITIS
LOW BACK PAIN
Obesity
Thyroid nodule
Radial artery occlusion, right
Palpitations 
Pulmonary embolism 
 
Social History:
___
Family History:
Father: first MI in mid ___, h/o vtach, afib, T2DM  
Son: AV nodal reentry  
Aunt: ___ CA at age ___  
 
Physical Exam:
Admission/Discharge Exam:
82 BP 1154/69 O2Sat 93% 
HEENT: NC AT
CHEST: CTA ___
CV: RRR NO MRG
Abd: NT ND +BS
Ext: WWP no erythema, warmth or edema. 
 
Pertinent Results:
ADMISSION/DISCHARGE LABS
___ 08:06AM BLOOD WBC-6.5# RBC-3.76* Hgb-12.4 Hct-36.3 
MCV-97 MCH-32.9* MCHC-34.1 RDW-13.8 Plt ___
___ 08:06AM BLOOD Neuts-72.6* ___ Monos-6.7 Eos-1.3 
Baso-0.5
___ 08:06AM BLOOD ___ PTT-47.7* ___
___ 08:06AM BLOOD Glucose-120* UreaN-10 Creat-0.8 Na-137 
K-3.9 Cl-105 HCO3-24 AnGap-12
___ 08:06AM BLOOD Calcium-8.6 Phos-2.8 Mg-1.9
___ 08:06AM BLOOD D-Dimer-<150

IMAGING:
ECHO:
The left atrium is normal in size. Left ventricular wall 
thicknesses are normal. The left ventricular cavity size is 
normal. Overall left ventricular systolic function is normal 
(LVEF>55%). Tissue Doppler imaging suggests a normal left 
ventricular filling pressure (PCWP<12mmHg). Right ventricular 
chamber size is borderline dilated and free wall motion is 
normal. The aortic valve leaflets (3) appear structurally normal 
with good leaflet excursion and no aortic stenosis or aortic 
regurgitation. The mitral valve appears structurally normal with 
trivial mitral regurgitation. The pulmonary artery systolic 
pressure is probably normal (however the spectral Doppler 
recording of the tricuspid jet is technically suboptimal). There 
is no pericardial effusion.

CXR:
AP upright portable chest radiograph is obtained.  The lungs are 
well expanded and clear.  There is no pleural effusion or 
pneumothorax.  The heart is normal in size with normal 
cardiomediastinal contours. 
IMPRESSION:  No acute intrathoracic process. 

 
Brief Hospital Course:
___ yo female with a PMH notable for SVT refractory to 
medications and ablations, atypical CP, and PEx2/DVT who is 
transferred from OSH for cath after being admitted with 
pleuritic CP.
.  
Chest pain: Possible causes of her CP are ACS (however she had 
clean coronaries in ___ and ___, EKG is normal without 
reported enzyme elevations) Nothing to suggest dissection, 
pericarditis, PNA or pneumothorax. Does not appear to be MSK in 
nature.  Pleuritic and associtated with tachycardia in this 
young woman with history of unprovoked VTE's on chronic coumadin 
in the setting of subtherapeutic INR raises the specter of 
recurrent PE although D-dimer was 150. In addition, repeat INR 
was 4.0 so she is therapuetic on her coumadin again despite 
being subtherapuetic on arrival to OSH.  ECHO was also 
unremarkable.  She slept for a few hours and on re-evaluation, 
her pain had improved.  She wanted to go home and we felt that 
given her extensive work up was negative that she was ok for 
discharge.  She has close follow up with Dr. ___ day after 
discharge on ___.
.  
#  Tachyarrhthmia: The Telemetry tracings from ___ 
were reviewed in detail. Possible etiologies include 
non-sustained Mono-morphic VT, SVT with abberency, or artifact. 
It was clear the the 'narrow' QRS complex marched through the 
'wide-complex' beats consistent with artifact.  We continued her 
home lopressor and she will follow up with Dr. ___ on ___. 
   
.  
# Elevated INR: Was 4 on admission.  She was not given her 
coumadin today.  She will follow up with ___ 
___ clinic to maintain a goal INR of 2.5-3.0.

# Hypothyroidism: Continue thyroxine
.  
# Anxiety: Continue lorazepam 

 
Medications on Admission:
Preadmission medications listed are correct and complete.  
Information was obtained from Patient.
1. Levothyroxine Sodium 50 mcg PO DAILY 
2. Warfarin 17.5 mg PO DAYS (___) 
3. Metoprolol Tartrate 25 mg PO TID 
4. Lorazepam 0.5 mg PO TID:PRN anxiety 
5. Omeprazole 20 mg PO DAILY 

 
Discharge Medications:
1. Levothyroxine Sodium 50 mcg PO DAILY 
2. Lorazepam 0.5 mg PO TID:PRN anxiety 
3. Metoprolol Tartrate 25 mg PO TID 
4. Omeprazole 20 mg PO DAILY 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnosis:
Chest Pain

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were transferred to ___ 
from another hospital for further evaluation of your chest pain. 
 Your chest pain was not cardiac in nature.  There was concern 
that this pain was related to a PE, but your D-dimer is low and 
this make it very unlikely.  In addition, your INR was elevated 
at 4.0.  We also do not believe this is referred pain from you 
abdomen.  Overall, your work up has been negative and we are 
reassured that since the pain has improved since arrival that 
you are ready to be discharged home.  

Since you INR is elevated, please do not take your coumadin 
today.  It is important that you have your INR drawn in the next 
___ hours and restart you coumadin to maintain a goal INR of 
2.5-3.

The following medication was STOPPED:
Coumadin to be restarted when INR within goal.

There were no other changes to your medication at this time.  
 
Followup Instructions:
___